* Z:\mnt\MAIN\Documents and Settings\Enkitec\Documents\LTspiceXVII\Current Dumping V1.asc
V3 N014 0 SINE(0 {Vout/44} {freq}) AC 1 0
R3 N015 0 27k
R17 N001 N002 100
R16 N026 N025 100
R5 N001 N007 2k2
R4 N021 N025 2k2
C5 N001 0 100n
C4 0 N025 100n
R9 N011 O 6k8
R8 O N020 6k8
C7 N007 0 100µ V=63
C6 0 N021 100µ V=63
V1 0 N025 50 Rser=3
R23 N016 OUT 4r7
V2 N001 0 50 Rser=3
R20 N009 FB 2k2
L1 N009 OUT 1µ Rser=1m
C19 FB N016 {Cx}
Q14 N025 N019 N009 0 MJ15004M
Q13 N001 N006 N009 0 MJ15003M
D3 N009 N001 UF4007
R13 N001 N003 1k
R12 N024 N025 1k
C8 N021 0 100n
C9 0 N007 100n
R§Load OUT 0 8
D1 0 N007 1N5245
D2 N021 0 1N5245
C21 N001 0 4700µ V=63
C20 0 N025 4700µ V=63
R19 N008 N022 1k
R14 N012 N018 {10k-Rx}
R15 N005 N012 {Rx}
Q1 N004 N007 N011 0 BC546B
Q2 N023 N021 N020 0 BC556B
Q5 N013 N012 N018 0 BC547B
Q6 N018 N013 N005 0 BC557B
R18 N005 N013 1k
R1 N015 N014 1k
C1 0 N015 33p
Q4 0 N023 N024 0 BC546B
Q3 0 N004 N003 0 BC556B
R7 N001 N004 1k2
R6 N023 N025 1k2
C11 N004 N010 27p
C10 N023 N017 27p
C15 N012 N013 100n
D4 N025 N009 UF4007
R21 N006 N016 1
R22 N016 N019 1
Q7 N005 N003 N002 0 MJE350-O
Q8 N018 N024 N026 0 MJE340-O
D5 N005 N004 1N5711
D6 N023 N018 1N5711
C3 N001 0 100µ V=63
C16 0 N025 100µ V=63
C2 N005 N018 10µ V=63
R10 N010 OUT 5k6
R11 OUT N017 5k6
C12 N010 N005 3p3
C13 N017 N018 3p3
V4 FB INV AC 1 0
R24 FB 0 100
XU1 FB N015 N007 N021 O OPA134
Q9 N001 N005 N008 0 2N5551_Cordell
Q10 N025 N018 N022 0 2N5401_Cordell
Q11 N025 N022 N019 0 MJE350-O
Q12 N001 N008 N006 0 MJE340-O
.model D D
.lib C:\users\enkitec\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\enkitec\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.step param Vout list 4 5 6 7 8 9
;.step oct param freq 20 20k 2
;.step param Cx 95p 97p .1p
.param Cx 95.7p
.param Rx 7k5
.step param freq list 1k 10k
.param Vout 60
* .inc Analyzer_Controls.txt\n.tran 0 {AnalysisTime} {SettlingTime} {MaxTimestep}
;.ac dec 50 1 100Meg
.options plotwinsize=0
.options numdgt=7
.options gmin=1e-9
.options noopiter
.param fft_pts=2**12
.param timestep=1/(fft_pts*freq)
.param start=((1/{freq})*8)
.param stop=((1/{freq})*10)
.tran 0 {stop} {start} {timestep}
.four {freq} V(out)
* PULSE({-Vout/44} {Vout/44} 0 1n 1n {0.5/freq} {1/freq} 100)
* Just plot V(FB)/V(INV)
* SINE(0 {Vout/44} {freq})
* L1/C19 = R20 x R23
;.meas TRAN PQ11pk MAX Pd(Q11)
.meas TRAN PQ12pk MAX Pd(Q12)
;.meas TRAN IQ11pk MAX Ic(Q11)
;.meas TRAN IQ12pk MAX Ic(Q12)
.lib C:\Users\Enkitec\Documents\LTspiceXVII\opa134.sub
.backanno
.end
