* OPA134 operational amplifier "macromodel" subcircuit
* This model can also be used for OPA2134 (dual op amp)
* created using Parts release 6.2i on 02/23/96 at 08:48
* Parts is a MicroSim product.
* REV. A  SB 7/20/96
*   adapted from OPA132 model 9/24/96  BCT
*  ------------------------------------------------------------------------ 
* |  NOTICE: THE INFORMATION PROVIDED HEREIN IS BELIEVED TO BE RELIABLE;   |
* |  HOWEVER; BURR-BROWN ASSUMES NO RESPONSIBILITY FOR INACCURACIES OR     |
* |  OMISSIONS.  BURR-BROWN ASSUMES NO RESPONSIBILITY FOR THE USE OF THIS  |
* |  INFORMATION, AND ALL USE OF SUCH INFORMATION SHALL BE ENTIRELY AT     |
* |  THE USER'S OWN RISK.  NO PATENT RIGHTS OR LICENSES TO ANY OF THE      |
* |  CIRCUITS DESCRIBED HEREIN ARE IMPLIED OR GRANTED TO ANY THIRD PARTY.  |
* |  BURR-BROWN DOES NOT AUTHORIZE OR WARRANT ANY BURR-BROWN PRODUCT FOR   |
* |  USE IN LIFE-SUPPORT DEVICES AND/OR SYSTEMS.                           |
*  ------------------------------------------------------------------------ 
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.SUBCKT OPA134   1 2 3 4 5
*
C1   11 12 3.240E-12
C2    6  7 8.000E-12
CSS  10 99 1.000E-30
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 248.0E6 -250E6 250E6 250E6 -250E6
GA    6  0 11 12 402.0E-6
GCM   0  6 10 99 4.020E-9
ISS   3 10 DC 160.0E-6
HLIM 90  0 VLIM 1E3
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 2.490E3
RD2   4 12 2.490E3
RO1   8  5 20
RO2   7 99 20
RP    3  4 7.500E3
RSS  10 99 1.250E6
VB    9  0 DC 0
VC    3 53 DC 1.200
VE   54  4 DC .9
VLIM  7  8 DC 0
VLP  91  0 DC 40
VLN   0 92 DC 40
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=2.500E-15 BETA=1.010E-3 VTO=-1)
.ENDS

